US07405300B2
(1-oxypyridin-3-yl)acetonitrile (7.5 g, 35.9 mmol) is carefully added to vigorously stirred phosphorous oxychloride (100 mL). The mixture is slowly heated to 80° C. (in 5° C. increments) over 1.5 hr. (CAUTION. If heating is too quick, violent decomposition occurs at ca 70° C.) All the solids dissolved. The reaction is heated at reflux for 3 hr. The excess phosphorous oxychloride is removed and the residue is cautiously treated with cold water. Saturated sodium bicarbonate is added to make the mixture basic, then it is extracted with ethyl acetate (3×). The combined extract is washed with brine, dried, filtered and concentrated. The residue is purified by chromatography eluting with pentane-10 to 100% ether. The second compound off the column is the desired (2-chloropyridin-3-yl)acetonitrile (2.35 g, 42.9% yield) a light brown solid.

reactant | (1-oxypyridin-3-yl)acetonitrile | 35.9 mmol, 7.5 g | C1=CC(=C[N+](=C1)[O-])CC#N | C7H6N2O
reactant | phosphorous oxychloride | 100 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | (2-chloropyridin-3-yl)acetonitrile | 2.35 g, 42.9% yield | ClC1=NC=CC=C1CC#N | C7H5ClN2
